US06936612B2
4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.412 g, 0.673 mmol), tetrakis(triphenylphosphine)palladium (0.093 g, 0.081 mmol) and tributyl-(1-ethoxy-vinyl)-stannane (0.379 g, 1.05 mmol) were dissolved in toluene (3 mL) and slowly brought to reflux for 1 hour. The solvent was evaporated and the solid was redissolved in dichloromethane (8 mL) and purified by silica gel chromatography to give 4-{6-[8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a yellow solid (0.405 g, 99.0%). 1H NMR δ (400 MHz, CDCl3) 8.73 (s, 1H), 8.15 (d, J=9.0 Hz, 1H), 8.00 (s, 1H), 7.85 (d, J=2.9 Hz, 1H), 7.18 (m, 1H), 5.90 (m, 1H), 4.52 (d, J=2.4 Hz, 1H), 4.18 (d, J=2.4 Hz, 1H), 3.93 (q, J=7.1 Hz, 2H), 3.80 (m, 2H), 3.38 (m, 2H), 3.26 (s, 2H), 2.41 (s, 3H), 2.35 (m, 2H), 2.06 (m, 2H), 1.85 (m, 2H), 1.64 (m, 2H), 1.49 (s, 9H), 1.45 (s, 6H), 1.36 (t, J=7.1 Hz, 3H).

reactant | 4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.673 mmol, 0.412 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2)(C)C | C29H38BrN7O3
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 1.05 mmol, 0.379 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.081 mmol, 0.093 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{6-[8-cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.405 g, 99.0% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)C(=C)OCC)=O)C2CCCC2)(C)C | C33H45N7O4
